US07569578B2
(R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid
Aqueous lithium hydroxide (1M, 130 mL, 0.13 mmol) was added dropwise to a stirred solution of (R)-1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (40 mg, 0.0646 mmol) in dioxane (2 mL) at 0° C., and the mixture was stirred for 2 h. The reaction was quenched with 1N hydrochloric acid, poured into ethyl acetate (30 mL), washed with brine (10 mL), dried over magnesium sulfate and concentrated in vacuo to afford a tan foamy solid (32 mg, 82%), which was used without further purification. 1H-NMR (CDCl3, 400 MHz) δ 8.02 (s,1H), 7.60 (s,1H), 7.52-7.32 (m, 3H), 7.29-7.13 (m, 2H), 7.05 (s,1H), 5.71 (s,2H), 5.29 (dd, J=9.0, 3.8 Hz, 1H), 4.28 (br, 2H), 3.34 (br, 2H), 3.34 (dd, J=14.1, 3.9 Hz, 2H), 3.21 (dd, J=14.4, 9.2 Hz, 2H) 3.13-2.75 (m, 4H), 2.60 (s, 3H), 1.95-1.72 (m, 4H), 0.95-1.85 (m, 2H), 0.051 (s, 9H).

reactant | lithium hydroxide | 0.13 mmol, 1M, 130 mL | [OH-].[Li+]
reactant | (R)-1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 0.0646 mmol, 40 mg | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H](C(=O)OC)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C33H42N4O6Si
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid | 32 mg, 82% | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C[C@H](C(=O)O)OC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C32H40N4O6Si
